US09169246B2
Step 5.3. ethyl 7-bromo-2,4-dioxo-1-(propan-2-yl)-1,2,3,4-tetrahydroquinoline-3-carboxylate
To a solution of 4-bromo-2-[(3-ethoxy-3-oxopropanoyl)(propan-2-yl)amino]benzoic acid (6.2 g, 16.7 mmol) in 170 mL of DCE is added triethylamine (3.5 mL, 25.1 mmol), followed by addition of thionyl chloride (1.45 mL, 20.6 mmol) at 0° C. After stirring at room temperature for 3 hours, the reaction medium is diluted with DCM and washed with aqueous HCl solution (1M). The organic phase is washed with saturated aqueous NaHCO3 solution and saturated aqueous NaCl solution, dried over Na2SO4 and concentrated to dryness. The oil obtained is purified by flash chromatography (toluene/EtOAc: 100/0 to 90/10) to give 2,23 g of a white solid (yield: 52%).

reactant | 4-bromo-2-[(3-ethoxy-3-oxopropanoyl)(propan-2-yl)amino]benzoic acid | 16.7 mmol, 6.2 g | BrC1=CC(=C(C(=O)O)C=C1)N(C(C)C)C(CC(=O)OCC)=O | C15H18BrNO5
reactant | triethylamine | 25.1 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 20.6 mmol, 1.45 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCE | 170 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl 7-bromo-2,4-dioxo-1-(propan-2-yl)-1,2,3,4-tetrahydroquinoline-3-carboxylate | 2,23 g, yield: 52% | BrC1=CC=C2C(C(C(N(C2=C1)C(C)C)=O)C(=O)OCC)=O | C15H16BrNO4
